US08486963B2
Step 2: 7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (piperidin-4-yloxy)-amide
4-{[7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carbonyl]-aminooxy}-piperidine-1-carboxylic acid tert-butyl ester (180 mg, 0.30 mmol) was dissolved in hydrochloric acid in dioxane (1 mL, 4M). The reaction was stirred at room temperature for 30 minutes then concentrated in vacuo. The resultant residue was subject to reverse phase HPLC (gradient 10-60% acetonitrile/water 0.1% formic acid, Phenominex gemini PhC6, 5 micron, 250×20 mm). The product was dissolved in ethyl acetate (5 mL), washed with aqueous saturated sodium bicarbonate solution (10 mL) and the aqueous fraction extracted twice with ethyl acetate (2×10 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo to yield the title compound as a yellow solid (37 mg, 25%). 1H NMR (DMSO-d6): 8.73 (1H, s), 7.92 (1H, s), 7.49 (1H, dd, J=10.98, 1.92 Hz), 7.41-7.38 (2H, m), 7.16-7.13 (1H, m), 6.72 (1H, d, J=0.92 Hz), 5.93 (1H, t, J=8.84 Hz), 3.72-3.62 (1H, m), 2.87 (2H, dt, J=12.72, 4.49 Hz), 2.41-2.31 (2H, m), 1.67 (2H, dt, J=12.84, 4.01 Hz), 1.32-1.21 (2H, m). LCMS (Method A): RT=6.17 min, M+H+=496.

reactant | 4-{[7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carbonyl]-aminooxy}-piperidine-1-carboxylic acid tert-butyl ester | 0.30 mmol, 180 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)ONC(=O)C=1C=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)I)F | C24H27FIN5O4
solvent | hydrochloric acid | Cl | ClH
solvent | dioxane | 4M, 1 mL | O1CCOCC1 | C4H8O2
product | 7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (piperidin-4-yloxy)-amide | 37 mg, 25% | N1CCC(CC1)ONC(=O)C=1C=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)I)F | C19H19FIN5O2
